US08134001B2
In a manner similar to the method described in Example 50a, 5-chloro-2-fluorobenzaldehyde (0.88 g, 5.6 mmol) (Beta Pharma) was reacted with 4-trifluoromethylphenol (1 g, 6.6 mmol)(Aldrich) and K2CO3 in N,N-dimethylacetamide to give 5-chloro-2-(4-trifluoromethyl-phenoxy)-benzaldehyde as a yellow solid (Yield 0.98 g, 58%).

reactant | 5-chloro-2-fluorobenzaldehyde | 5.6 mmol, 0.88 g | ClC=1C=CC(=C(C=O)C1)F | C7H4ClFO
reactant | 4-trifluoromethylphenol | 6.6 mmol, 1 g | FC(C1=CC=C(C=C1)O)(F)F | C7H5F3O
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | N,N-dimethylacetamide | CN(C(C)=O)C | C4H9NO
product | 5-chloro-2-(4-trifluoromethyl-phenoxy)-benzaldehyde | Yield 0.98 g, 58% | ClC=1C=CC(=C(C=O)C1)OC1=CC=C(C=C1)C(F)(F)F | C14H8ClF3O2
